US08563735B2
4-(4-chlorophenyl)-2-fluoro-5-methylpyridine
A mixture of 2-fluoro-4-iodo-5-methylpyridine (1.9 g), 4-chlorophenylboronic acid (1.504 g), tetrakis(triphenylphosphine)palladium(0) (0.463 g), and sodium carbonate (2.55 g) in ethanol (20 mL), water (10 mL) and toluene (10 mL) was heated under reflux for 6 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was separated, and the aqueous layers were extracted with additional ethyl acetate three times. The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated. The residue was purified with flash column chromatography on silica gel using 5% ethyl acetate in hexanes to give the title compound.

reactant | 2-fluoro-4-iodo-5-methylpyridine | 1.9 g | FC1=NC=C(C(=C1)I)C | C6H5FIN
reactant | 4-chlorophenylboronic acid | 1.504 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 2.55 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.463 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-chlorophenyl)-2-fluoro-5-methylpyridine | ClC1=CC=C(C=C1)C1=CC(=NC=C1C)F | C12H9ClFN
